US07550474B2
a. N-[2-(Amidinoaminooxy)ethyl]-2-{3-[(2,2-difluoro-2-(3,4-difluorophenyl)ethyl)amino]-6-cyano-2-fluorophenyl}acetamide hydrochloride
Prepared from N-[2-(Amidinoaminooxy)ethyl]-2-{3-[(2,2-difluoro-2-(3,4-difluorophenyl)ethyl)amino]-6-cyano-2-fluorophenyl}acetamide, as described in the previous step, using essentially the protocol given in Example 2j. 1H NMR (300 Hz, CD3OD) δ 7.55-7.45 (m, 1H), 7.41-7.26 (m, 3H), 6.80 (t, J=8.6 Hz, 1H), 3.99-3.91 (m, 4H), 3.76 (d, J=1.98 Hz, 2H), 3.52 (t, J=5.3 Hz, 2H); LC/MS (m/z) [M+1]+ 471.2 (calculated for C20H19F5N6O2, 470.15). Elem. Anal. Calc. for free base •1.00 HCl: C, 47.39; H, 3.98; N, 16.58; Cl, 6.99. Found: C, 47.39; H, 3.74; N, 16.57; Cl, 7.01. Karl Fischer % water: <0.10.

reactant | N-[2-(Amidinoaminooxy)ethyl]-2-{3-[(2,2-difluoro-2-(3,4-difluorophenyl)ethyl)amino]-6-cyano-2-fluorophenyl}acetamide | C(N)(=N)NOCCNC(CC1=C(C(=CC=C1C#N)NCC(C1=CC(=C(C=C1)F)F)(F)F)F)=O | C20H19F5N6O2
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | N-[2-(Amidinoaminooxy)ethyl]-2-{3-[(2,2-difluoro-2-(3,4-difluorophenyl)ethyl)amino]-6-cyano-2-fluorophenyl}acetamide hydrochloride | Cl.C(N)(=N)NOCCNC(CC1=C(C(=CC=C1C#N)NCC(C1=CC(=C(C=C1)F)F)(F)F)F)=O | InChI=1S/C20H19F5N6O2.ClH/c21-14-3-2-12(7-15(14)22)20(24,25)10-30-16-4-1-11(9-26)13(18(16)23)8-17(32)29-5-6-33-31-19(27)28;/h1-4,7,30H,5-6,8,10H2,(H,29,32)(H4,27,28,31);1H
